US08304419B2
Step H: 3-chloro-5-({6-chloro-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-2-fluorophenyl}oxy)benzonitrile
3-{[3-(Bromomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (1.8 g, 4.8 mmol) was dissolved in DMF (50 mL) and potassium phthalimide (2.25 g, 12.0 mmol) was added. The reaction mixture was placed in an oil bath at 60° C. and stirred for 2-3 h. The reaction mixture was cooled to RT and the solvent was evaporated. Purification was accomplished by column chromatography (CH2Cl2/MeOH) to afford the title compound (1.9 g, 90%). 1H NMR (400 MHz, DMSO-d6): δ ppm 7.70-7.98 (m, 6H), 7.39-7.49 (m, 2H), 7.35 (dd, 1H), 4.81 (s, 2H). MS: m/z 463.2 (M+23).

reactant | 3-{[3-(Bromomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 4.8 mmol, 1.8 g | BrCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H7BrCl2FNO
reactant | potassium phthalimide | 12.0 mmol, 2.25 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-chloro-5-({6-chloro-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-2-fluorophenyl}oxy)benzonitrile | 1.9 g, 90% | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1Cl)CN1C(C2=CC=CC=C2C1=O)=O)F | C22H11Cl2FN2O3
